US06143492
7-Benzyloxymethyloxycoumarin-3-carboxylic acid succinimidyl ester was prepared by following procedure: A mixture of 7-Hydroxycoumarin-3-carboxylic acid succinimidyl ester, (303 mg, 1 mmol) and dry potassium carbonate (248 mg, 1.5 mmol), in dry dimethylformamide (15 mL) was vigorously stirred at 0° C. for 25 min. Benzylchloromethylether (2.32 mL, 10.0 mmol), was then added quickly to the reaction. The bright yellow mixture was stirred at 0° C. for 45 min. and for 2 hrs. at 25° C. After which time the reaction turned to a colorless solution. The reaction was monitored by TLC (Rf =0.5, 1:1 EtOAc:Hex.and Rf =0.24, CHCl3). After of the coumarin starting material the reaction medium was diluted with diethylether (100 mL) and extracted with 50 mL of 5% aqueous acetic acid. The ether layer was separated and dried over anhydrous sodium sulfate, filtered and the solvents evaporated under reduced pressure. The solid was recrystallized from methanol and washed with hexanes (20 mL, 0° C.). The product, -Benzyloxymethyloxycoumarin-3-carboxylic acid succinimidyl ester, was dried under reduced pressure yielding a white solid (85 mg, 20%). 1H NMR (500 MHz, CDCl3): 2.91 (s, 4H), 4.74 (s, 2H), 5.40 (s, 2H), 7.07 (m,2H), 7.32 (m, 5H), 7.53 (d, 1H), 8.75 (s, 1H).

reactant | 7-Hydroxycoumarin-3-carboxylic acid succinimidyl ester | 1 mmol, 303 mg | C1(CCC(N1OC(=O)C=1C(OC2=CC(=CC=C2C1)O)=O)=O)=O | C14H9NO7
reactant | potassium carbonate | 1.5 mmol, 248 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Benzylchloromethylether | 10.0 mmol, 2.32 mL | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Benzyloxymethyloxycoumarin-3-carboxylic acid succinimidyl ester | C1(CCC(N1OC(=O)C=1C(OC2=CC(=CC=C2C1)OCOCC1=CC=CC=C1)=O)=O)=O | C22H17NO8
